US04958029
N-benzyl-5,6-dihydroxyisoindoline
1.0 g (3.1 mmol) of N-benzyl-5,6-dihydroxyisoindoline hydrobromide was dissolved in 40 ml of a 50% methanol aqueous solution, and the solution was adjusted to pH 8.0 with 8% aqueous ammonia. The precipitated crystals were collected by filtration and washed with 5 ml of cold water and 5 ml of cold acetone to obtain 640 mg of the above identified compound.

reactant | N-benzyl-5,6-dihydroxyisoindoline hydrobromide | 3.1 mmol, 1.0 g | Br.C(C1=CC=CC=C1)N1CC2=CC(=C(C=C2C1)O)O
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | N-benzyl-5,6-dihydroxyisoindoline | C(C1=CC=CC=C1)N1CC2=CC(=C(C=C2C1)O)O | C15H15NO2
